US08211919B2
A suspension of ethyl (4-hydroxypiperidin-1-yl)(phenyl)acetate (5.2 g) in 6N hydrochloric acid (80 mL) was refluxed for 14 hours and the mixture was evaporated in vacuo. The residue was triturated with methanol and collected by filtration and dried in vacuo to afford (4-hydroxypiperidin-1-yl) (phenyl)acetic acid hydrochloride (4.65 g) as a powder.

reactant | ethyl (4-hydroxypiperidin-1-yl)(phenyl)acetate | 5.2 g | OC1CCN(CC1)C(C(=O)OCC)C1=CC=CC=C1 | C15H21NO3
reactant | hydrochloric acid | 6N, 80 mL | Cl | ClH
product | (4-hydroxypiperidin-1-yl) (phenyl)acetic acid hydrochloride | 4.65 g | Cl.OC1CCN(CC1)C(C(=O)O)C1=CC=CC=C1 | InChI=1S/C13H17NO3.ClH/c15-11-6-8-14(9-7-11)12(13(16)17)10-4-2-1-3-5-10;/h1-5,11-12,15H,6-9H2,(H,16,17);1H
